US07696223B2
a) 4-Acetoxy-7-cyano-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
To a solution of 7-cyano-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (0.4 g, 1.33 mmol), example 97(a), and acetic anhydride (0.25 mL, 2.65 mmol) in methylene chloride (8 mL) at ambient temperature was added triethylamine (0.37 mL, 2.65 mmol). The reaction mixture was stirred at ambient temperature for 2.5 h before 100 mL of methylene chloride was added. The organic solution was washed with 80 mL of water, dried, filtered, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-50% ethyl acetate in hexanes to produce 0.44 g of a colorless oil. MS: (+) m/z 344.3 (M+1).

reactant | 7-cyano-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1.33 mmol, 0.4 g | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CCC(C)C)O | C16H19N3O3
reactant | acetic anhydride | 2.65 mmol, 0.25 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.65 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-Acetoxy-7-cyano-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.44 g | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CCC(C)C)OC(C)=O | C18H21N3O4
